US06437194B2
The consumed amount of hydrogen during the reaction was 136.6 mmoles and was 3.01 moles per 1 mole of charged nonylphenol ethylene oxide adduct. Nonylphenol ethylene oxide adduct residual in nonylcyclohexanol ethylene oxide adduct was determined by liquid chromatography. The amount was 120 ppm by weight. Further, nonylcyclohexane formed by hydrogenation decomposition reaction was determined by gas chromatography. The amount was 150 ppm by weight.

reactant | hydrogen | [H][H] | H2
reactant | nonylphenol ethylene oxide | 1 mole | C1CO1.C(CCCCCCCC)C1=C(C=CC=C1)O
solvent | nonylcyclohexanol ethylene oxide | C1CO1.C(CCCCCCCC)C1(CCCCC1)O
product | nonylcyclohexane | C(CCCCCCCC)C1CCCCC1 | C15H30
